US07750135B2
Purification of Histidine Tagged Protein.
Buffer C: 20 mM Tris-HCL (pH˜8.5), 100 mM KCl, 100 mM imidazole, 10 mM 2-mercaptoethanol, 10% (v/v) glycerol at 4° C., for example, 1 L (or 200 mL): 9 (1.8) mL 1 M Tris-HCl, 11 (2.2) mL 1 M Tris base, 50 (10 mL 2 M KCl, 100 (20) mL 1 M imidazole, 0.70 (0.14) mL 14.3 M 2-mercaptoethanol (add just before using), 100 (20) mL 100% glycerol (molecular biology grade), 729.30 (145.86) mL water.

reactant | Tris | 20 mM | C(C(CO)(CO)N)O | C4H11NO3
reactant | KCl | 100 mM | [Cl-].[K+]
reactant | imidazole | 100 mM | N1C=NC=C1 | C3H4N2
reactant | 2-mercaptoethanol | 10 mM | SCCO | C2H6OS
reactant | Tris-HCl | 1 M | C(C(CO)(CO)N)O.Cl
reactant | Tris base | 1 M | C(C(CO)(CO)N)O | C4H11NO3
reactant | KCl | 2 M, 10 mL | [Cl-].[K+]
reactant | imidazole | 1 M | N1C=NC=C1 | C3H4N2
reactant | 2-mercaptoethanol | 14.3 M | SCCO | C2H6OS
solvent | water | O | H2O
solvent | glycerol | OCC(O)CO | C3H8O3
product | Histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
